US07105503B2
Preparation of 4-(5-Fluoro-2-nitrobenzyl)morpholine
5-Fluoro-2-nitrotoluene (1.55 g, 10 mmol), N-bromosuccinimide (1.82 g, 10 mmol), and benzoyl peroxide (0.1 g, 0.4 mmol) were dissolved in CCl4 (50 mL), heated at reflux, and irradiated with light (100 W bulb) for 4 hours. The reaction mixture was filtered and concentrated. The residue was dissolved in THF (50 mL). Morpholine (1.9 g, 22 mmol) was added to the THF solution. The mixture was stirred at ambient temperature for 1 hour and then filtered. The solvent of the filtrate was evaporated. The bright orange residue obtained was then mixed with 5% HCl solution (30 mL) and extracted with ethyl acetate (2×25 mL). The aqueous layer was basified with NaOH solution to pH 8 and then extracted with methylene chloride. Both ethyl acetate solution and methylene chloride solution were dried over anhydrous Na2SO4 separately. Evaporation of ethyl acetate solution afforded an orange oil which was recrystallized from hexane:ether solution to yield 450 mg of a yellow solid, 4-(3-methyl-4-nitrophenyl)morpholine (18%), the by-product. Evaporation of methylene chloride solution afforded 660 mg of the desired compound, 4-(5-fluoro-2-nitrobenzyl)morpholine (27.5%).

reactant | 5-Fluoro-2-nitrotoluene | 10 mmol, 1.55 g | FC=1C=CC(=C(C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | N-bromosuccinimide | 10 mmol, 1.82 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.4 mmol, 0.1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | Morpholine | 22 mmol, 1.9 g | N1CCOCC1 | C4H9NO
reactant | HCl | 30 mL | Cl | ClH
solvent | CCl4 | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | THF | C1CCOC1 | C4H8O
product | 4-(5-Fluoro-2-nitrobenzyl)morpholine | 450 mg | FC=1C=CC(=C(CN2CCOCC2)C1)[N+](=O)[O-] | C11H13FN2O3
